US07241769B2
4-amino-N-(4-morpholin-4-yl-cyclohexyl)-3-prop-2-ynyloxy-benzamide
38.7 g (0.1 mol) N-(4-morpholin-4-yl-cyclohexyl)-4-nitro-3-prop-2-ynyloxy-benzamide are dissolved in 400 ml of ethyl acetate and 25 ml of methanol. To this solution are added 75 g tin (II)chloride.3H2O. The mixture is stirred for 16 h at 50° C. Then it is cooled to ambient temperature and 80 ml of conc. aqueous ammonia are added.

reactant | N-(4-morpholin-4-yl-cyclohexyl)-4-nitro-3-prop-2-ynyloxy-benzamide | 0.1 mol, 38.7 g | N1(CCOCC1)C1CCC(CC1)NC(C1=CC(=C(C=C1)[N+](=O)[O-])OCC#C)=O | C20H25N3O5
reactant | tin (II)chloride | 75 g | [Sn](Cl)Cl
reactant | ammonia | 80 ml | N | H3N
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
product | 4-amino-N-(4-morpholin-4-yl-cyclohexyl)-3-prop-2-ynyloxy-benzamide | NC1=C(C=C(C(=O)NC2CCC(CC2)N2CCOCC2)C=C1)OCC#C | C20H27N3O3
